US04219510
A mixture of diethyl-2-(1-bromoethyl)phenylphosphonate (12 g, 0.037 mole) in 25 ml. of 1,2-dichlorobenzene was refluxed for 2 hours. The reaction mixture was vacuum distilled to yield 1-ethoxy-3-methyl-1,3-dihydro-2,1-benzoxaphosphole-1-oxide (4.3 g, 55% yield) as a colorless oil.

reactant | diethyl-2-(1-bromoethyl)phenylphosphonate | 0.037 mole, 12 g | C(C)C1=C(C(=C(C=C1)P([O-])([O-])=O)C(C)Br)CC
reactant | 1,2-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1-ethoxy-3-methyl-1,3-dihydro-2,1-benzoxaphosphole-1-oxide | 4.3 g, 55% yield | C(C)OP1(OC(C2=C1C=CC=C2)C)=O | C10H13O3P
